US06645968B2
N-(4-methylbenzoyl)alanine
Racemic alanine and p-toluoyl chloride were processed as described in Example 26A to provide the desired product.

reactant | Racemic alanine | N[C@@H](C)C(=O)O | C3H7NO2
reactant | p-toluoyl chloride | C1(=CC=C(C=C1)C(=O)Cl)C | C8H7ClO
product | N-(4-methylbenzoyl)alanine | CC1=CC=C(C(=O)N[C@@H](C)C(=O)O)C=C1 | C11H13NO3
